US09371320B2
D) 1-benzyl-4-chloro-3-iodo-1H-pyrazolo[4,3-c]pyridine
To a mixture of 4-chloro-3-iodo-1H-pyrazolo[4,3-c]pyridine (6.3 g) and potassium hydroxide (2.5 g) in DMF (60 mL) was added benzyl bromide (4.6 g) at room temperature. The reaction mixture was stirred at room temperature for 4 hr. The reaction mixture was neutralized with saturated aqueous sodium hydrogencarbonate solution under ice-cooling, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/petroleum ether) to give the title compound (5.0 g).

reactant | 4-chloro-3-iodo-1H-pyrazolo[4,3-c]pyridine | 6.3 g | ClC1=NC=CC2=C1C(=NN2)I | C6H3ClIN3
reactant | potassium hydroxide | 2.5 g | [OH-].[K+]
reactant | benzyl bromide | 4.6 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 1-benzyl-4-chloro-3-iodo-1H-pyrazolo[4,3-c]pyridine | 5.0 g | C(C1=CC=CC=C1)N1N=C(C=2C(=NC=CC21)Cl)I | C13H9ClIN3
